2172-03-01 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2172-2-29**] 02:00 PM
 DIALYSIS CATHETER - START [**2172-2-29**] 02:00 PM
 NASAL SWAB - At [**2172-2-29**] 03:20 PM
 BLOOD CULTURED - At [**2172-2-29**] 03:20 PM
 SPUTUM CULTURE - At [**2172-2-29**] 06:20 PM
 ARTERIAL LINE - START [**2172-2-29**] 06:54 PM
 BLOOD CULTURED - At [**2172-2-29**] 08:18 PM
   - Vomited while intubated, likely cause for aspiration
   - Arterial line placed
   - Son who is HCP requested communication with him only
   - IVF for elevated lactate
   - HIT panel sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-2-29**] 05:00 PM
   Metronidazole - [**2172-3-1**] 03:08 AM
   Vancomycin - [**2172-3-1**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2172-2-29**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-1**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 101 (100 - 144) bpm
   BP: 107/67(80) {84/52(-3) - 148/89(108)} mmHg
   RR: 24 (11 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.3 kg (admission): 125 kg
             Total In:
                                                                  5,316 mL
                                                                  3,223 mL
   PO:
             TF:
   IVF:
                                                                  3,135 mL
                                                                  2,535 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   NG:
   450 mL
   Stool:
   Drains:
   Balance:
                                                                  5,316 mL
                                                                  2,773 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 36 cmH2O/mL
   SpO2: 98%
   ABG: 7.43/35/77/25/0
   Ve: 12 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, JVP not elevated
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds present, unable to
   assess for tenderness to palpation
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   90 K/uL
   9.3 g/dL
   179 mg/dL
   5.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   28.7 %
   19.3 K/uL
        [image002.jpg]
                             [**2172-2-29**]  12:20 PM
                             [**2172-2-29**]  08:11 PM
                             [**2172-2-29**]  11:31 PM
                             [**2172-3-1**]  03:33 AM
                             [**2172-3-1**]  03:48 AM
   WBC
   19.3
   Hct
   28.7
   Plt
   90
   Cr
   5.8
   TCO2
   32
   25
   24
   24
   Glucose
   179
   Other labs: PT / PTT / INR:23.0/47.3/2.2, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Sputum 2+ Budding yeast with pseudohyphae
   Assessment and Plan
   Assessment and Plan: This is a 60 yo male with ARF, C diff, alc hep,
   Hep B and C, now with hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days leading to this
   rapid decline.  Currently intubated and satting well.
   - Continue ventilation, wean as tolerated
   - Sputum culture pending
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean from ventilator today given fluid overload and
   hypotension requiring pressors.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Is on midodrine at HD for hypotension
   as well.
   - Continue levophed to maintain MAP>65
   - Fluid boluses prn, will need to give judiciously given renal failure
   - Treat infection which includes peritonitis, c. diff and likely HAP
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Discussed with
   surgery this morning and percutaneous decompression not felt to be an
   option.  If patient decompensates again, surgery may be considered as
   patient failing medical management, but with high likelihood of death
   also.
   - Consider repeat CT abd/pelvis with PO contrast to assess for
   obstruction/ileus
   - Continue to hold octreotide which may be worseing ileus
   - Avoid excessive narcotics
   - Continue to follow abdominal exam
   - F/u Surgery and GI recs
 their input appreciated
   - Continue to readdress prognosis and status with family given option
   for medical management only
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - foley placed on [**2-29**] and no urine output overnight despite IVF.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Albumin as needed for intravascular volume resuscitation/HRS therapy
   as needed dodrine before dialysis to help with hypotension
   - Plan for HD or CVVH on [**3-2**]
   - Will check bladder pressure to rule out compartment syndrome
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue lactulose 30 mL TID
   - Continue HD for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; currently on fent/midazolam ->
   consider changing to propofol if BP tolerates.
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO vanc and IV flagyl given severity of colitis.
   Today is day 11 of antibiotics. Per report, appears to be improving.
   - Continue PO vanc/flagyl to complete at least a 14 day course
   - Continue to follow stool output, serial abdominal exams
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate.
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.0, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # Thrombocytopenia: Stable off heparin products.
   - Send HIT ab
   - Continue to hold on heparin
   - Pneumoboots for DVT ppx, INR 2.0 today
   .
   # DM2: Continue HISS
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now
   - Meds via OGT
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR,
   lansoprazole, on lactulose
   .
   # Access: R CVL placed [**2-20**], will need to consider replacing, L HD
   catheter, consider PICC placement tomorrow to replace R CVL.
   .
   # Code: Full
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   .
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-2-29**] 05:45 PM 83.[**Telephone/Fax (5) 5425**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-2-29**] 02:00 PM
   Dialysis Catheter - [**2172-2-29**] 02:00 PM
   Arterial Line - [**2172-2-29**] 06:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-01 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yr old Cirrhotic, ESKD, SBP, mentating well this AM.
   Recent admission for pancreatitis. Admitted this admit with BRBPR. C
   diff positive being treated. Question of afferent loop obstruction.
   Acute renal failure, question of HRS. Dialysis initiated on [**2-26**]. E
   coli SBP by para [**2-26**] treated with CFTX. Repeat para on [**2-28**] >250 pmn,
   culture pending. Acute drop in platelets.
   Brought to MICU urgently for acute tachypnea with desats to 80s
   improved with NRB. In MICU, tachypneic to 30s, desats to 70s improved
   to 98% with high flow nonvented mask. Intubated with help of anesthesia
   (sux 100 mg, etomidate 15 mg). Peri-intubation had copious vomiting
   with significant aspiration. Suctioned for large amount of gastric
   contents. Required levophed for hypotension.
   24 Hour Events:
    - Intubated for hypoxic respiratory failure
    - witnessed aspiration during intubation
    - elevated lactate
    - HIT assay pending
    - anuric overnight
    - levophed dependent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-2-29**] 05:00 PM
   Metronidazole - [**2172-3-1**] 03:08 AM
   Vancomycin - [**2172-3-1**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2172-2-29**] 12:30 PM
   Midazolam (Versed) - [**2172-3-1**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No(t) OG / NG tube
   Flowsheet Data as of  [**2172-3-1**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.1
   HR: 113 (100 - 144) bpm
   BP: 117/74(88) {84/52(-3) - 148/89(108)} mmHg
   RR: 25 (11 - 41) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.3 kg (admission): 125 kg
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  5,319 mL
                                                                  3,625 mL
   PO:
   TF:
   IVF:
                                                                  3,135 mL
                                                                  2,699 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    450 mL
   Urine:
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                  5,319 mL
                                                                  3,175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 49.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/35/77/25/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   90 K/uL
   179 mg/dL
   5.8 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   28.7 %
   19.3 K/uL
        [image002.jpg]
                             [**2172-2-29**]  12:20 PM
                             [**2172-2-29**]  08:11 PM
                             [**2172-2-29**]  11:31 PM
                             [**2172-3-1**]  03:33 AM
                             [**2172-3-1**]  03:48 AM
   WBC
   19.3
   Hct
   28.7
   Plt
   90
   Cr
   5.8
   TCO2
   32
   25
   24
   24
   Glucose
   179
   Other labs: PT / PTT / INR:23.0/47.3/2.2, ALT / AST:[**7-31**], Alk Phos / T
   Bili:102/1.1, Differential-Neuts:78.0 %, Band:1.0 %, Lymph:16.0 %,
   Mono:5.0 %, Eos:0.0 %, Lactic Acid:3.5 mmol/L, LDH:214 IU/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Complicated history 60 yr old with DM, ARF, question of afferent loop
   syndrome admitted to MICU with acute hypoxic respiratory failure.
   1- Respiratory failure - definite aspiration peri-intubation and I
   suspect this is what resulted in initial respiratory symptoms
   superimposed by volume overload from anuric ARF. Will treat as HAP +
   aspiration. Agree with Vanc/Cefepime/Flagyl. Will keep on ventilator,
   wean FiO2, RSBI/SBT daily. Will need fluid removal by dialysis to help
   with extubation.
   2 - Vomiting/Ileus
 will check CT [**Last Name (un) **] with PO contrast to assess for
   SBO. Previous surgical notes suggest afferent limb syndrome. OG to
   suction. Continue TPN
   3 - Septic shock/hypotension
 likely sepsis given SBP, cdiff and now
   aspiration pneumonia. On levophed, would give small bolus IVF if needed
   for hypotension.
   4 - ARF - ? ATN, anuric. Will likely start CVVH tomorrow AM.
   - will check bladder pressure
   5
 Anemia/thrombocytopenia
   6 - C diff
 being treated with PO vanc/IV flagyl
   7 - DM
   ICU Care
   Nutrition: TPN w/ Lipids - [**2172-3-1**] 08:05 AM 83.[**Telephone/Fax (5) 5425**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2172-2-29**] 02:00 PM
 Picc tomorrow
   Dialysis Catheter - [**2172-2-29**] 02:00 PM
   Arterial Line - [**2172-2-29**] 06:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments: son [**Name (NI) 5420**] (HCP) updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2172-03-02 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HIT ab POSITIVE
   - heme consult: dialysis can give false positive. Send Serotonin
   release assay
   - liver consult: did not feel that liver was causing the majority of
   his problems. Varices unlikely although no EGD.
   - Notify HD that heparin should not be used.
   - 500 cc NS bolus x 3 for BP in 80s systolic - was able to come down on
   pressor requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2172-3-1**] 04:00 PM
   Vancomycin - [**2172-3-2**] 04:00 AM
   Metronidazole - [**2172-3-2**] 04:12 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2172-3-1**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-2**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 110 (106 - 131) bpm
   BP: 79/53(62) {79/53(62) - 131/79(95)} mmHg
   RR: 27 (24 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.3 kg (admission): 125 kg
    CVP: 14 (9 - 18)mmHg
   Bladder pressure: 24 (24 - 24) mmHg
   Total In:
                                                                  7,263 mL
                                                                    872 mL
   PO:
   TF:
   IVF:
                                                                  5,010 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    405 mL
   Urine:
                                                                     25 mL
                                                                      5 mL
   NG:
                                                                  1,075 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  6,163 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 54 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/34/78.[**Numeric Identifier 7**]/21/-2
   Ve: 16.6 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, JVP not elevated
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds present, unable to
   assess for tenderness to palpation
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   83 K/uL
   9.2 g/dL
   247 mg/dL
   6.3 mg/dL
   21 mEq/L
   4.6 mEq/L
   36 mg/dL
   106 mEq/L
   139 mEq/L
   28.9 %
   21.8 K/uL
        [image002.jpg]
                             [**2172-2-29**]  12:20 PM
                             [**2172-2-29**]  08:11 PM
                             [**2172-2-29**]  11:31 PM
                             [**2172-3-1**]  03:33 AM
                             [**2172-3-1**]  03:48 AM
                             [**2172-3-1**]  05:56 PM
                             [**2172-3-1**]  06:25 PM
                             [**2172-3-2**]  04:45 AM
                             [**2172-3-2**]  05:33 AM
   WBC
   19.3
   23.1
   21.8
   Hct
   28.7
   29.5
   28.9
   Plt
   90
   88
   83
   Cr
   5.8
   6.3
   TCO2
   32
   25
   24
   24
   21
   22
   Glucose
   179
   247
   Other labs: PT / PTT / INR:23.2/48.4/2.2, ALT / AST:11/48, Alk Phos / T
   Bili:123/1.0, Differential-Neuts:78.8 %, Band:1.0 %, Lymph:16.0 %,
   Mono:4.1 %, Eos:0.7 %, Lactic Acid:4.2 mmol/L, Albumin:2.1 g/dL,
   LDH:232 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 60 yo male with ARF, C diff, alc hep, Hep B and C, now with
   hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days leading to this
   rapid decline.  Currently intubated and satting well.
   - Continue ventilation, wean as tolerated
   - f/u sputum culture pending
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean from ventilator today given fluid overload and
   hypotension requiring pressors, though will give trial of pressure
   support.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Is on midodrine at HD for hypotension
   as well.
   - Continue levophed to maintain MAP>65
   - Fluid boluses prn, but would like to avoid given renal failure
   - check central venous sat to help determine if hypovolemia/cardiogenic
   vs. sepsis as cause of hypotension
   - Treat infection which includes peritonitis, c. diff and possible HAP
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Surgery feels
   percutaneous decompression not a good option.  If patient decompensates
   again, surgery may be considered as patient failing medical management,
   but with high likelihood of death also.
   - Consider repeat CT abd/pelvis with PO contrast to assess for
   obstruction/ileus though imaging at this point may not be very helpful
   - Continue to hold octreotide which may be worseing ileus
   - Avoid excessive narcotics
   - Continue to follow abdominal exam
   - F/u Surgery and GI recs
 their input appreciated
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] regarding possible options
   - follow lactate
   - Continue to readdress prognosis and status with family given option
   for medical management only
   - seriel abd pressures
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Plan for CVVH today
   - follow bladder pressure to rule out compartment syndrome
   - redose meds for CrCl of 20 given CVVH
   .
   # Thrombocytopenia: question of patient having HIT given dropping
   platlets and positive HIT antibody. Heme consulted and feel that this
   may be false positive due to HD and we have sent serotonin assay.
   - f/u serotonin assay
   - avoid heparin products for now
   - no need for argatroban
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue lactulose 30 mL TID
   - Continue HD for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; currently on fent/midazolam ->
   consider changing to propofol if BP tolerates.
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO vanc and IV flagyl given severity of colitis.
   Today is day 11 of antibiotics. Per report, appears to be improving.
   - Continue PO vanc/flagyl to complete at least a 14 day course
   - start PR vanco given possibility PO vanco is not getting through
   - Continue to follow stool output, serial abdominal exams
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate.
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.0, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # DM2: Continue [**Last Name (LF) 1565**], [**First Name3 (LF) 124**] need to be increased today
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now
   - Meds via OGT
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR,
   lansoprazole, on lactulose
   .
   # Access: R CVL placed [**2-20**], will need to consider replacing, L HD
   catheter, consider PICC placement tomorrow to replace R CVL.
   .
   # Code: Full
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-3-1**] 09:07 PM 83.[**Telephone/Fax (5) 5425**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-2-29**] 02:00 PM
   Dialysis Catheter - [**2172-2-29**] 02:00 PM
   Arterial Line - [**2172-2-29**] 06:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-03 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Surgery contact[**Name (NI) **] and they feel that with acute change or continued
   worsening, repeat abdominal imaging would be helpful; however, they are
   unlikely to do exploratory lap without direction from imaging showing a
   change in status.
   - HD today.
   - [**2-28**] peritoneal cx neg, LIJ coag neg staph.  [**2-29**] sputum yeast
   - Heme recs ?HIT, f/u SRA.  Recs HIV test, vanco could be contributing.
   - Renal recs will initiate CVVH when new HD line placed, IR for HD line
   replacement [**3-3**]
   - Failed SBT trial, tachypnea
   Allergies:
   Heparin Agents
   HIT positive
   I
   Last dose of Antibiotics:
   Cefipime - [**2172-3-2**] 04:13 PM
   Vancomycin - [**2172-3-2**] 06:13 PM
   Metronidazole - [**2172-3-3**] 05:01 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-3**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 107 (107 - 122) bpm
   BP: 114/71(87) {75/50(59) - 130/74(93)} mmHg
   RR: 27 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.3 kg (admission): 125 kg
    CVP: 10 (10 - 20)mmHg
   Bladder pressure: 21 (21 - 24) mmHg
   Total In:
                                                                  3,247 mL
                                                                  1,431 mL
   PO:
   TF:
   IVF:
                                                                  1,194 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                      0 mL
   Urine:
                                                                     25 mL
   NG:
                                                                  1,425 mL
   Stool:
   Drains:
   Balance:
                                                                  1,797 mL
                                                                  1,431 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.38/36/91.[**Numeric Identifier 253**]/22/-2
   Ve: 13.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, JVP not elevated
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds distant.  Obvious
   tenderness to palpation diffusely.
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   K/uL
   g/dL
   217 mg/dL
   6.9 mg/dL
   18 mEq/L
   4.7 mEq/L
   44 mg/dL
   105mEq/L
   [**Age over 90 **]m          Eq/L
   28.0 %
   21.1 K/uL
        [image002.jpg]
                             [**2172-3-1**]  05:56 PM
                             [**2172-3-1**]  06:25 PM
                             [**2172-3-2**]  04:45 AM
                             [**2172-3-2**]  05:33 AM
                             [**2172-3-2**]  01:27 PM
                             [**2172-3-2**]  01:48 PM
                             [**2172-3-2**]  04:48 PM
                             [**2172-3-2**]  10:57 PM
                             [**2172-3-3**]  05:36 AM
                             [**2172-3-3**]  05:49 AM
   WBC
   23.1
   21.8
   21.1
   Hct
   29.5
   28.9
   28.0
   Plt
   88
   83
   Cr
   6.3
   6.6
   TCO2
   21
   22
   20
   22
   22
   22
   Glucose
   247
   251
   Other labs: PT / PTT / INR:23.2/48.4/2.2, ALT / AST:11/48, Alk Phos / T
   Bili:123/1.0, Differential-Neuts:78.8 %, Band:1.0 %, Lymph:16.0 %,
   Mono:4.1 %, Eos:0.7 %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL,
   LDH:232 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 60 yo male with ARF, C diff, alc hep, Hep B and C, now with
   hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days leading to this
   rapid decline.  Currently intubated, stable on ventilator
   - Continue ventilation, wean as tolerated
   - f/u sputum culture final results, currently yeast
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean from ventilator today given continued fluid overload
   and hypotension requiring pressors, will reassess once HD able to take
   off fluid
   - will obtain blood cultures today for surveillance, consider
   antifungal if blood cultures indicate yeast as is seen in current
   sputum cultures.
   - Cont daily trial of pressure support at 15/10.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Is on midodrine at HD for hypotension
   as well.  Currently remains on levophed with minimal decrease in
   required dose for MAP>65
   - Continue levophed to maintain MAP>65
   - Fluid boluses prn, but would like to avoid given renal failure
   - HD today, will plan for likely zero UF.
   - continue check central venous sat, yesterday [**3-2**] was 70, to help
   determine if hypovolemia/cardiogenic vs. sepsis as cause of hypotension
   - Treat infection which includes peritonitis, c. diff and possible HAP
   - If continues with hypotension despite adequate treatment, would
   consider echo.
   - Consider vasopressin if needs second pressor.
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Surgery feels
   percutaneous decompression not a good option.  If patient decompensates
   again, surgery may be considered as patient failing medical management,
   but with high likelihood of death also.  Surgery continues to follow
   and is amenable to surgical consideration if status changes with
   possible surgically correctable condition.  Abdomen much more tender
   this morning, no recent BM.
   - Consider repeat CT abd/pelvis with IV/PO/rectal contrast to assess
   for obstruction/ileus/possible bowel perf.  Will hold off for now
   currently, will plan CT as clinical status changes
   - Continue to hold octreotide which may be worseing ileus
   - Avoid excessive narcotics
   - Continue to follow abdominal exam
   - d/c lactulose
   - all IV meds as unclear if GI tract is working.
   - F/u Surgery and GI recs
 their input appreciated
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] regarding possible options
   - follow lactate, trending downward
   - Bladder scan to assess UOP status in setting of unclear
   interpretation of elevated bladder pressures
   - Continue to readdress prognosis and status with family given option
   for medical management only
   - seriel abd pressures, last bladder pressure 22 and 24, unable to
   interpret given body habitus, fluid overload.
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Plan for CVVH today once new IR guided HD line placed
   - d/c midodrine
   - follow bladder pressure to rule out compartment syndrome
   - redose meds for CrCl of 20 given CVVH.
   .
   # Thrombocytopenia: question of patient having HIT given dropping
   platlets and positive HIT antibody. Heme consulted and feel that this
   may be false positive due to HD and we have sent serotonin assay.
   - f/u serotonin assay
   - Heme recs possible HIV test, consider vanco as additional source of
   [**Month (only) 453**] plts.
   - avoid heparin products for now
   - no need for argatroban
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue HD for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; currently on fent/versed due to
   increase in abd tenderness
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO/PR vanc and IV flagyl given severity of
   colitis. Today [**3-3**] is day 12 of antibiotics. Per report, appears to be
   improving.  Not producing BM
   - Continue PO vanc/flagyl to complete at least a 14 day course
   - cont PR vanco given possibility PO vanco is not getting through
   - Continue to follow stool output, serial abdominal exams
   - would consider IVIG for c.diff if next stool sample still c.diff
   positive
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate, will
   readdress based on clinical status
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.3, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # DM2: Continue HISS, adjust as needed.  Will place insulin in TPN
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now, will add insulin to TPN
   - Meds via OGT
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR,
   lansoprazole
   .
   # Access: R CVL placed [**2-20**].  Plan for pt to go to IR today for change
   of R CVL with L HD CVL for continued HD.
   # Code: Full
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-3-3**] 01:28 AM 83.[**Telephone/Fax (5) 5425**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2172-2-29**] 02:00 PM
   Dialysis Catheter - [**2172-2-29**] 02:00 PM
   Arterial Line - [**2172-2-29**] 06:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-04 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient received line changes with CVC now on left and HD cath on
   right
   - Began CVVH in the evening
   - Foley was changed due to concern for leaking, possible residuals in
   bladder
   - Levophed titrated up during the evening to 0.2 mcg/kg/min following
   initiation of CVVH
 BLOOD CULTURED - At [**2172-3-3**] 10:00 AM
 BLOOD CULTURED - At [**2172-3-3**] 10:10 AM
 BLOOD CULTURED - At [**2172-3-3**] 10:15 AM
   fungal isolator
 MULTI LUMEN - STOP [**2172-3-3**] 03:30 PM
 DIALYSIS CATHETER - STOP [**2172-3-3**] 03:30 PM
 MULTI LUMEN - START [**2172-3-3**] 04:00 PM
 DIALYSIS CATHETER - START [**2172-3-3**] 04:00 PM
   Allergies:
   Heparin Agents
   HIT positive
   I
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-3**] 08:00 AM
   Cefipime - [**2172-3-3**] 04:00 PM
   Metronidazole - [**2172-3-4**] 03:56 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 87 (87 - 116) bpm
   BP: 103/65(80) {74/48(56) - 120/90(91)} mmHg
   RR: 24 (23 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.3 kg (admission): 125 kg
    CVP: 29 (11 - 29)mmHg
   Total In:
                                                                  5,247 mL
                                                                  2,796 mL
   PO:
   TF:
   IVF:
                                                                  3,136 mL
                                                                  2,225 mL
   Blood products:
   Total out:
                                                                  2,022 mL
                                                                  3,113 mL
   Urine:
   NG:
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  3,225 mL
                                                                   -317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.37/37/118/20/-3
   Ve: 13.4 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, JVP not elevated
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds distant.  Obvious
   tenderness to palpation diffusely.
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   87 K/uL
   9.0 g/dL
   180 mg/dL
   5.0 mg/dL
   20 mEq/L
   4.5 mEq/L
   35 mg/dL
   103 mEq/L
   135 mEq/L
   28.1 %
   17.1 K/uL
        [image002.jpg]
                             [**2172-3-2**]  04:48 PM
                             [**2172-3-2**]  10:57 PM
                             [**2172-3-3**]  05:36 AM
                             [**2172-3-3**]  05:49 AM
                             [**2172-3-3**]  12:23 PM
                             [**2172-3-3**]  04:22 PM
                             [**2172-3-3**]  11:27 PM
                             [**2172-3-3**]  11:49 PM
                             [**2172-3-4**]  05:09 AM
                             [**2172-3-4**]  05:19 AM
   WBC
   21.1
   17.1
   Hct
   28.0
   28.1
   Plt
   112
   87
   Cr
   6.9
   7.0
   5.0
   TCO2
   22
   22
   22
   21
   21
   22
   Glucose
   [**Telephone/Fax (3) 5489**]80
   Other labs: PT / PTT / INR:24.2/48.3/2.4, ALT / AST:14/71, Alk Phos / T
   Bili:140/0.8, Differential-Neuts:71.1 %, Band:1.0 %, Lymph:20.5 %,
   Mono:5.8 %, Eos:1.3 %, Lactic Acid:2.4 mmol/L, Albumin:1.9 g/dL,
   LDH:261 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is a 60 yo male with ARF, C diff, alc hep, Hep B and C, now with
   hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days leading to this
   rapid decline.  Currently intubated, stable on ventilator
   - Continue ventilation, wean as tolerated
   - f/u sputum culture final results, currently yeast
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean from ventilator today given continued fluid overload
   and hypotension requiring pressors, will reassess once HD able to take
   off fluid
   - will obtain blood cultures today for surveillance, consider
   antifungal if blood cultures indicate yeast as is seen in current
   sputum cultures.
   - Cont daily trial of pressure support at 15/10.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Is on midodrine at HD for hypotension
   as well.  Currently remains on levophed with minimal decrease in
   required dose for MAP>65
   - Continue levophed to maintain MAP>65
   - Fluid boluses prn, but would like to avoid given renal failure
   - HD today, will plan for likely zero UF.
   - continue check central venous sat, yesterday [**3-2**] was 70, to help
   determine if hypovolemia/cardiogenic vs. sepsis as cause of hypotension
   - Treat infection which includes peritonitis, c. diff and possible HAP
   - If continues with hypotension despite adequate treatment, would
   consider echo.
   - Consider vasopressin if needs second pressor.
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Surgery feels
   percutaneous decompression not a good option.  If patient decompensates
   again, surgery may be considered as patient failing medical management,
   but with high likelihood of death also.  Surgery continues to follow
   and is amenable to surgical consideration if status changes with
   possible surgically correctable condition.  Abdomen much more tender
   this morning, no recent BM.
   - Consider repeat CT abd/pelvis with IV/PO/rectal contrast to assess
   for obstruction/ileus/possible bowel perf.  Will hold off for now
   currently, will plan CT as clinical status changes
   - Continue to hold octreotide which may be worseing ileus
   - Avoid excessive narcotics
   - Continue to follow abdominal exam
   - d/c lactulose
   - all IV meds as unclear if GI tract is working.
   - F/u Surgery and GI recs
 their input appreciated
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] regarding possible options
   - follow lactate, trending downward
   - Bladder scan to assess UOP status in setting of unclear
   interpretation of elevated bladder pressures
   - Continue to readdress prognosis and status with family given option
   for medical management only
   - seriel abd pressures, last bladder pressure 22 and 24, unable to
   interpret given body habitus, fluid overload.
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Plan for CVVH today once new IR guided HD line placed
   - d/c midodrine
   - follow bladder pressure to rule out compartment syndrome
   - redose meds for CrCl of 20 given CVVH.
   .
   # Thrombocytopenia: question of patient having HIT given dropping
   platlets and positive HIT antibody. Heme consulted and feel that this
   may be false positive due to HD and we have sent serotonin assay.
   - f/u serotonin assay
   - Heme recs possible HIV test, consider vanco as additional source of
   [**Month (only) 453**] plts.
   - avoid heparin products for now
   - no need for argatroban
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue HD for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; currently on fent/versed due to
   increase in abd tenderness
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO/PR vanc and IV flagyl given severity of
   colitis. Today [**3-3**] is day 12 of antibiotics. Per report, appears to be
   improving.  Not producing BM
   - Continue PO vanc/flagyl to complete at least a 14 day course
   - cont PR vanco given possibility PO vanco is not getting through
   - Continue to follow stool output, serial abdominal exams
   - would consider IVIG for c.diff if next stool sample still c.diff
   positive
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate, will
   readdress based on clinical status
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.3, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # DM2: Continue HISS, adjust as needed.  Will place insulin in TPN
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now, will add insulin to TPN
   - Meds via OGT
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR,
   lansoprazole
   .
   # Access: R CVL placed [**2-20**].  Plan for pt to go to IR today for change
   of R CVL with L HD CVL for continued HD.
   # Code: Full
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-3-3**] 03:46 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-2-29**] 06:54 PM
   Multi Lumen - [**2172-3-3**] 04:00 PM
   Dialysis Catheter - [**2172-3-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-05 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued CVVH, had BP dropping to SBP 70's around 3pm so CVVH set to
   even I/O after having removed ~700cc.
   - Had to titrate up on Levo (up to 0.22 at 5pm on [**3-4**], now at 0.2) for
   low SBP
   - Went up on insulin in TPN, discontinued Glargine SC since question of
   absorbtion by SC as well as patient still not getting PO feeds
   Allergies:
   Heparin Agents
   HIT positive
   I
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-4**] 08:03 AM
   Cefipime - [**2172-3-4**] 04:00 PM
   Metronidazole - [**2172-3-5**] 04:11 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-3-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-5**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 90 (86 - 116) bpm
   BP: 114/65(83) {78/45(61) - 125/75(91)} mmHg
   RR: 14 (14 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.3 kg (admission): 125 kg
    CVP: 8 (8 - 20)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                 10,774 mL
                                                                  3,252 mL
   PO:
   TF:
   IVF:
                                                                  8,914 mL
                                                                  2,706 mL
   Blood products:
   Total out:
                                                                 10,791 mL
                                                                  3,456 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 540 (540 - 540) mL
   Vt (Spontaneous): 743 (611 - 743) mL
   PS : 18 cmH2O
   RR (Set): 24
   RR (Spontaneous): 14
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.34/50/96.[**Numeric Identifier 7**]/24/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 194
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, unable to assess JVP
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds distant.  Obvious
   tenderness to palpation diffusely.
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   109 K/uL
   8.9 g/dL
   123 mg/dL
   3.2 mg/dL
   24 mEq/L
   4.1 mEq/L
   23 mg/dL
   98 mEq/L
   132 mEq/L
   28.0 %
   18.8 K/uL
        [image002.jpg]
                             [**2172-3-4**]  05:19 AM
                             [**2172-3-4**]  10:05 AM
                             [**2172-3-4**]  10:13 AM
                             [**2172-3-4**]  01:39 PM
                             [**2172-3-4**]  03:46 PM
                             [**2172-3-4**]  03:59 PM
                             [**2172-3-4**]  11:40 PM
                             [**2172-3-5**]  12:00 AM
                             [**2172-3-5**]  05:41 AM
                             [**2172-3-5**]  05:53 AM
   WBC
   18.8
   Hct
   28.0
   Plt
   109
   Cr
   4.0
   3.6
   3.2
   TCO2
   22
   22
   21
   26
   26
   28
   Glucose
   191
   164
   117
   123
   Other labs: PT / PTT / INR:22.8/47.9/2.2, ALT / AST:14/97, Alk Phos / T
   Bili:195/0.8, Differential-Neuts:71.1 %, Band:1.0 %, Lymph:20.5 %,
   Mono:5.8 %, Eos:1.3 %, Lactic Acid:1.8 mmol/L, Albumin:1.9 g/dL,
   LDH:289 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   This is a 60 yo male with ARF, C diff, alc hep, Hep B and C, now with
   hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days prior to ICU
   leading to this rapid decline.  Currently intubated, stable on
   ventilator
   - Continue ventilation, wean as tolerated on pressure support
   - f/u cultures
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean sedation today given need for patient to be still
   for CVVH
   - will attempt to slowly diurese with CVVH to remove fluid, however BP
   may not tolerate.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Has been on midodrine at HD for
   hypotension as well.  Currently remains on levophed with minimal
   decrease in required dose for MAP>65
   - Continue levophed to maintain MAP>65
   - Fluid boluses if needed, but would like to avoid given renal failure
   - cont CVVH today, will plan for some net removal of fluid.
   - Treat infection which includes peritonitis, c. diff and possible HAP
   - If continues with hypotension despite adequate treatment, would
   consider echo.
   - Consider vasopressin if needs second pressor.
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Surgery feels
   percutaneous decompression not a good option.  If patient decompensates
   again, surgery may be considered as patient failing medical management,
   but with high likelihood of death also.  Surgery continues to follow
   and is amenable to surgical consideration if status changes with
   possible surgically correctable condition.  Abdomen with increased
   bowel sounds compared to yesterday. No recent BM.
   - Consider repeat CT abd/pelvis with IV/PO/rectal contrast to assess
   for obstruction/ileus/possible bowel perf.  Will hold off for now
   currently, will plan CT as clinical status changes
   - Continue to hold octreotide which may be worseing ileus
   - Avoid excessive narcotics
   - Continue to follow abdominal exam
   - holding lactulose
   - all IV meds as unclear if GI tract is working.
   - F/u Surgery and GI recs
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] regarding possible options, including initiating feeds today
   - follow lactate, trending downward
   - Bladder scan yesterday showed 20, cont to monitor
   - Continue to readdress prognosis and status with family given option
   for medical management only
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Plan for continued CVVH today
   - holding on midodrine
   - follow bladder pressure to rule out compartment syndrome
   - redose meds for CrCl of 20 given CVVH.
   .
   # Thrombocytopenia: question of patient having HIT given dropping
   platlets and positive HIT antibody. Heme consulted and feel that this
   may be false positive due to HD and we have sent serotonin assay.
   - f/u serotonin assay (pending)
   - Heme recs possible HIV test, consider vanco as additional source of
   [**Month (only) 453**] plts.
   - avoid heparin products for now
   - no need for argatroban
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue CVVH for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; however, currently on fent/versed
   due to increase in abd tenderness and need for patient to remain still
   for CVVH
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO/PR vanc and IV flagyl given severity of
   colitis. Today ([**3-5**]) is day 14 of antibiotics. Still not producing
   BM
   - Continue PO vanc/flagyl (now has had a 14 day course)
   - cont PR vanco given possibility PO vanco is not getting through
   - Continue to follow stool output, serial abdominal exams
   - would consider IVIG for c.diff if next stool sample still c.diff
   positive
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate, will
   readdress based on clinical status
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.3, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # DM2: Continue HISS, adjust as needed. insulin in TPN
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now, insulin in TPN
   - Meds via IV
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR, PPI
   .
   # Access: L-CVL placed [**3-4**] (originally R-sided placed on [**2-20**]).  R-HD
   line for CVVH
   .
   # Code: Full
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-3-4**] 11:57 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-2-29**] 06:54 PM
   Multi Lumen - [**2172-3-3**] 04:00 PM
   Dialysis Catheter - [**2172-3-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-06 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Heme recs await SRA, cont without heparin products for now
   - Renal recs cont CVVH, predict poor renal prognosis
   - [**Doctor First Name **] recs no TF at this point, if cont to improve consider IR FT,
   possible gastric remnant decompression if distended.
   - PS decreased from 18/12->15/12, tolerated well
   - meeting with HCP brother who agrees to DNR for pt
   Allergies:
   Heparin Agents
   HIT positive
   I
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-4**] 08:03 AM
   Cefipime - [**2172-3-5**] 02:59 PM
   Metronidazole - [**2172-3-6**] 04:01 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-3-5**] 07:47 AM
   Fentanyl - [**2172-3-5**] 11:21 AM
   Midazolam (Versed) - [**2172-3-5**] 11:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-6**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 103 (92 - 112) bpm
   BP: 88/53(64) {83/51(63) - 112/63(80)} mmHg
   RR: 18 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.3 kg (admission): 125 kg
    CVP: 12 (6 - 15)mmHg
   Total In:
                                                                 11,875 mL
                                                                  3,063 mL
   PO:
   TF:
   IVF:
                                                                  9,916 mL
                                                                  2,452 mL
   Blood products:
   Total out:
                                                                 12,350 mL
                                                                  2,883 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -475 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 549 (403 - 684) mL
   PS : 15 cmH2O
   RR (Spontaneous): 21
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: 7.37/45/103/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General: Sedated, hypoxic, in respiratory distress prior to intubation
   HEENT: Sclera icteric, MM dry, oropharynx w/ oral airway in place, poor
   dentition
   Neck: supple, unable to assess JVP
   Lungs: Coarse breath sounds bilaterally with loud upper airway sounds,
   no appreciable wheezes or rales
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: obese, distended but soft, bowel sounds distant.  Obvious
   tenderness to palpation diffusely.
   Ext: 1+ RLE edema, trace LLE edema
   Labs / Radiology
   122 K/uL
   9.7 g/dL
   96 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   17 mg/dL
   97 mEq/L
   131 mEq/L
   30.3 %
   16.2 K/uL
        [image002.jpg]
                             [**2172-3-5**]  05:41 AM
                             [**2172-3-5**]  05:53 AM
                             [**2172-3-5**]  10:56 AM
                             [**2172-3-5**]  11:30 AM
                             [**2172-3-5**]  05:27 PM
                             [**2172-3-5**]  05:42 PM
                             [**2172-3-5**]  11:19 PM
                             [**2172-3-5**]  11:41 PM
                             [**2172-3-6**]  05:33 AM
                             [**2172-3-6**]  05:42 AM
   WBC
   18.8
   16.2
   Hct
   28.0
   30.3
   Plt
   109
   122
   Cr
   3.2
   2.8
   2.7
   2.4
   2.2
   TCO2
   28
   26
   23
   28
   27
   Glucose
   123
   123
   112
   101
   99
   96
   Other labs: PT / PTT / INR:22.2/45.9/2.1, ALT / AST:18/110, Alk Phos /
   T Bili:230/0.8, Differential-Neuts:42.0 %, Band:10.0 %, Lymph:26.0 %,
   Mono:5.0 %, Eos:1.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.8 g/dL,
   LDH:327 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 60 yo male with ARF, C diff, alc hep, Hep B and C, now with
   hypoxic respiratory failure
   .
   # Hypoxic respiratory failure: Unclear what the precipitant was, but
   acute decompensation appears to be a result of aspiration.  Also, in
   the process of intubation, patient had copious emesis and continues to
   have significant OGT output.  Patient has had ileus versus obstruction
   that has been followed during his admission and he likely had
   significant residual gastric contents.  Patient is acutely ill and
   possibly had mini aspirations over the last 10 days prior to ICU
   leading to this rapid decline.  Currently intubated.  Appears acutely
   worse this AM in regards to his increasing pressor requirement as well
   as his worsening ABG on PS.
   - Given worsening overall hemodynamic status, will turn patient back
   onto rate.  No vent wean for now.
   - f/u cultures, [**2-29**] sputum with yeast
   - Treat for HAP/aspiration with vanc/cefepime/flagyl as patient had
   been on vanc/ctx prior
   - Continue to follow daily CXR as patient likely experienced aspiration
   event and may develop infiltrate vs pneumonitis
   - Unlikely to wean sedation today given need for patient to be still
   for CVVH
   - will attempt to slowly diurese with CVVH to remove fluid, however BP
   may not tolerate.
   - will discuss with ID regarding recommendations for possible addition
   of antifungal given previous sputum culture with yeast and development
   of worsening hemodynamics.
   .
   # Hypotension: Became hypotensive in the setting of intubation and in
   spite of fluid boluses, continues to require levophed to maintain MAPs
   >65.  Has had asymptomatic hypotension on the floor multiple times
   responsive to fluid and albumin.  Has been on midodrine at HD for
   hypotension as well.  Currently remains on levophed with steady
   increase in pressor requirement to attain required dose for MAP>65
   - Continue levophed to maintain MAP>65
   - will add vasopressin at this point for second pressor
   - remains on CVVH
   - cont CVVH today, anticipate net even due to worsening hemodynamics.
   - Treat infection which includes peritonitis, c. diff and possible HAP
   - If continues with hypotension despite adequate treatment, would
   consider echo.
   .
   # Afferent loop syndrome/ileus vs SBO: Has had questionable diagnosis
   per prior notes, has been followed by GI and surgery and was not felt
   to be a surgical candidate on multiple occasions.  Surgery feels
   percutaneous decompression not a good option.  If patient decompensates
   again, surgery may be considered as patient failing medical management,
   but with high likelihood of death also.  Surgery continues to follow
   and is amenable to surgical consideration if status changes with
   possible surgically correctable condition.  Abdomen with decreased
   bowel sounds compared to yesterday. No recent BM, has not stooled in
   days.  Bladder pressure today 40.
   - will contact surgery regarding overall worsening status for
   recommendations regarding possibility of CT abd/pelvis and whether
   findings on CT a/p would change overall surgical plan.
   - Continue to hold octreotide which may be worseing ileus
   - Continue to follow abdominal exam
   - holding lactulose
   - all IV meds as unclear if GI tract is working.
   - will d/c PR vanco
   - F/u Surgery recs
   - follow lactate, trending downward
   - Bladder pressure increasing
   - Continue to readdress prognosis and status with family given option
   for medical management only
   .
   # Oliguric Acute Renal Failure: Combination of ATN and prerenal
   azotemia.  Followed by nephrology and recently initiated HD per renal
   recommendations.  Also was treated temporarily for HRS, though given
   that octreotide can worsen SBO, treatment was discontinued.  On
   midodrine prior to HD for hypotension.  No hydro on US.
   - Continue to follow with nephrology and hepatology, appreciate their
   recommendations.
   - Plan for continued CVVH today
   - holding on midodrine
   - follow bladder pressure to rule out compartment syndrome
   - redose meds for CrCl of 20 given CVVH.
   .
   # Thrombocytopenia: question of patient having HIT given dropping
   platlets and positive HIT antibody. Heme consulted and feel that this
   may be false positive due to HD and we have sent serotonin assay.
   - f/u serotonin assay (pending)
   - Heme recs
   - avoid heparin products for now
   - no need for argatroban
   .
   # Delirium: Unable to currently assess but has been an ongoing problem
   on the floor.  Likely multifactorial including uremia, hepatic
   encephalopathy and severe infection.
   - Continue CVVH for uremia
   - Continue broad spectrum abx which will cover peritonitis and HAP
   - Follow bcx
   - CIS
   - Try to avoid CNS acting medication; however, currently on fent/versed
   due to increase in abd tenderness and need for patient to remain still
   for CVVH
   .
   # Hematochezia: Resolved.  Has received a total of 3 units prbcs, last
   on [**2-20**].
   - Continue to follow Hct
   - Guaiac all stools
   - Active T&S
   .
   # C diff. colitis: On PO/PR vanc and IV flagyl given severity of
   colitis. Today ([**3-6**]) is day 15 of antibiotics. Still not producing
   BM
s.  Worsening abd exam today.
   - will d/c PR vanco today, cont PO vanco
   - Continue to follow stool output, serial abdominal exams
   - would consider IVIG for c.diff if next stool sample still c.diff
   positive
   .
   # Air near tail of pancreas: ? microperf vs pancreatico-colonic
   fistula.  Ascitic fluid amylase of 4.
   - As above, surgery feels patient is poor surgical candidate, will
   readdress based on clinical status
   - Continue to follow exam.
   .
   # Coagulopathy: INR 2.3, has been elevated throughout admission.
   Likely nutritional and component of liver disease. Patient has received
   multiple doses of vitamin K with little improvement.
   - Continue to follow
   - FFP prior to procedures
   - HCV viral load 509,000 IU/mL
   .
   # DM2: Continue HISS, adjust as needed. insulin in TPN
   .
   # FEN:
   - replete electrolytes
   - Continue TPN for now, insulin in TPN
   - Meds via IV
   .
   # Prophylaxis: pneumoboots given hematochezia and elevated INR, PPI
   .
   # Access: L-CVL placed [**3-4**] (originally R-sided placed on [**2-20**]).  R-HD
   line for CVVH
   .
   # Code: DNR per recent discussion with HCP son [**Name (NI) 5420**] on [**3-5**]
   .
   # Communication: Patient, Son [**Name (NI) 5420**] who requests that no specific
   information be given to other family members
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2172-3-6**] 06:45 AM 77 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2172-2-29**] 06:54 PM
   Multi Lumen - [**2172-3-3**] 04:00 PM
   Dialysis Catheter - [**2172-3-3**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: